US06734204B1
N-Oleoyl glycine (FIG. 7) was prepared by coupling glycine ethyl ester to oleic acid with EDCI (Cravatt et al. (1996) J. Am. Chem. Soc. 118, 580-590; Patterson et al. (1996) J. Am. Chem. Soc. 118, 5938-5945) followed by sequential transformation to the carboxylic acid (LiOH) and glycinamide (EDCI, NH4OH;). N-Oleoyl sarcosine was purchased (Pfaltz and Bauer) and converted to its ethyl ester by coupling with EtOH (DCC).

reactant | glycine ethyl ester | C(C)OC(CN)=O | C4H9NO2
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | glycinamide | NCC(=O)N | C2H6N2O
reactant | N-Oleoyl sarcosine | C(CCCCCCC\C=C/CCCCCCCC)(=O)N(C)CC(=O)O | C21H39NO3
solvent | EtOH | CCO | C2H6O
product | N-Oleoyl glycine | C(CCCCCCC\C=C/CCCCCCCC)(=O)NCC(=O)O | C20H37NO3
